US08138345B2
Preparation of (3-Methylaminopropyl)carbamic Acid 9H-Fluoren-9-ylmethyl Ester Hydrochloride Salt
To a stirred solution of [3-(9H-fluoren-9-ylmethoxycarbonylamino)propyl]-methylcarbamic acid tert-butyl ester (4.24 g, 10.3 mmol) in EtOAc (8 mL) was slowly added concentrated hydrochloric acid (2 mL, 60 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure to give the title compound (3.21 g, 78% yield) as a white solid.

reactant | [3-(9H-fluoren-9-ylmethoxycarbonylamino)propyl]-methylcarbamic acid tert-butyl ester | 10.3 mmol, 4.24 g | C(C)(C)(C)OC(N(C)CCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C24H30N2O4
reactant | hydrochloric acid | 60 mmol, 2 mL | Cl | ClH
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | (3-Methylaminopropyl)carbamic Acid 9H-Fluoren-9-ylmethyl Ester Hydrochloride Salt | 3.21 g, 78% yield | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCCNC)=O | InChI=1S/C19H22N2O2.ClH/c1-20-11-6-12-21-19(22)23-13-18-16-9-4-2-7-14(16)15-8-3-5-10-17(15)18;/h2-5,7-10,18,20H,6,11-13H2,1H3,(H,21,22);1H
